US06235778B1
d) 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propoxyamine
To a solution of N-[3-[3-(2-cyanophenylsulfonyloxy)-5-methylphenoxy]propoxy]phthalimide (600 mg, 1.2 mmol), as prepared in the preceding step, in 40 mL of ethanol/tetrahydrofuran/water (2:1:1) was added sodium borohydride (230 mg, 6.0 mmol). The reaction mixture was stirred at ambient temperature overnight. The mixture was acidified (pH 1-2) and heated to 50° C. for 2 hours. After cooling to room temperature, the solution was adjusted to pH 8-9 with 2N NaOH. The mixture was extracted into ethyl acetate (3×50 mL), and the organic phase was washed with brine (50 mL) and dried over Na2SO4. After removing the solvent, the residue was purified by flash column chromatography (dichloromethane to 2% methanol in dichloromethane) to give the title compound as a colorless oil (370 mg, 85%). 1H-NMR (300 MHz, CDCl3) δ8.06 (m, 1H), 7.93 (m, 1H), 7.76 (m, 2H), 6.61 (s, 1H), 6.53 (s, 2H), 5.36 (br s, 2H), 3.94 (t, J=6.3 Hz, 2H), 3.78 (t, J=6.2 Hz, 2H), 2.23 (s, 3H), 1.99 (m, 2H).

reactant | N-[3-[3-(2-cyanophenylsulfonyloxy)-5-methylphenoxy]propoxy]phthalimide | 1.2 mmol, 600 mg | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON2C(C=3C(C2=O)=CC=CC3)=O)C=C(C1)C | C25H20N2O7S
reactant | sodium borohydride | 6.0 mmol, 230 mg | [BH4-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol tetrahydrofuran water | 40 mL | C(C)O.O1CCCC1.O
product | 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propoxyamine | 370 mg, 85% | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C | C17H18N2O5S
